US05922871
1-[N-Ethyl-N-(2-hydroxyethyl)carbamoyl]-4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzene
By the same procedure as described in the example 1, synthesis was carried out starting with 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid and using 2-(ethylamino)ethanol. Then, the product was recrystallized using ethyl acetate and petroleum ether, filtered and dried to give the desired compound as white crystal.

reactant | 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=CC=C(C(=O)O)C=C1 | C20H24N4O3
reactant | 2-(ethylamino)ethanol | C(C)NCCO | C4H11NO
product | 1-[N-Ethyl-N-(2-hydroxyethyl)carbamoyl]-4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzene | Yield: 86% | C(C)N(C(=O)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)CCO | C24H33N5O3
